US06096920
m-Bromobenzoyl chloride is reacted with benzene to form m-bromobenzophenone.

reactant | m-Bromobenzoyl chloride | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | m-bromobenzophenone | BrC=1C=C(C=CC1)C(C1=CC=CC=C1)=O | C13H9BrO
